US04923896
To a solution of 1,1-diphenylmethoxyamine (0.9 g, 0.0045 mol) (E. L. Schumann, et al, Journal of Medicinal Chemistry, Volume 7, pages 329-334 (1964)) in 20 ml of ethyl acetate is added 2,6-diisopropylphenyl isocyanate (0.91 g, 0.0045 mol) and the reaction mixture is stirred for 20 hours at room temperature. The volatiles are removed under reduced pressure and the residue treated with 30 ml hexane-ethyl acetate (4:1). The precipitated solid is filtered and dried affording 1.45 g of N-[2,6-bis(1-methylethyl)phenyl]-N'-(diphenylmethoxy)-urea; mp 152°-154° C.

reactant | 1,1-diphenylmethoxyamine | 0.0045 mol, 0.9 g | C1(=CC=CC=C1)C(ON)C1=CC=CC=C1 | C13H13NO
reactant | 2,6-diisopropylphenyl isocyanate | 0.0045 mol, 0.91 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-(diphenylmethoxy)-urea | 1.45 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NOC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H30N2O2
